US04228167
To 20 ml of trifluoroacetic acid were added portionwise with stirring both of 0.48 g of 5-hydroxy-10-(n-butyl)-5-phenyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline and 0.57 g of sodium borohydride below 0° C. under nitrogen. The reaction mixture was stirred at 0°-5° C. for 1 hour and the trifluoroacetic acid was evaporated under reduced pressure. To the residue were added 20 ml of ice-water and then 15 ml of 40% sodium hydroxide solution. After stirring for a while, the mixture was extracted with chloroform and the chloroform layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on silica gel using chloroform as an eluent to give 0.3 g of 10-(n-butyl)-5-phenyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline as a light yellow oil. An ethanol solution of the product was treated with ethanolic hydrogen chloride and evaporated under reduced pressure. The residue was recrystallized from ethanol to give colorless prisms (hydrochloride), m.p. 297° C. (decomp.).

reactant | 5-hydroxy-10-(n-butyl)-5-phenyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline | 0.48 g | OC1(N2C(N(C3=CC=CC=C13)CCCC)=NCC2)C2=CC=CC=C2 | C20H23N3O
reactant | sodium borohydride | 0.57 g | [BH4-].[Na+]
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 10-(n-butyl)-5-phenyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline | 0.3 g | C(CCC)N1C=2N(C(C3=CC=CC=C13)C1=CC=CC=C1)CCN2 | C20H23N3
